US07495104B2
Compound 31: (4-Tert-butylphenyl)-[4-(6,7-dimethoxyquinolin-4-yloxy)phenyl]methyl acetate
(4-Tert-butylphenyl)-[4-(6,7-dimethoxy-4-quinolyloxy)phenyl]-methanol (51 mg) was dissolved in N,N-dimethylformamide (10 ml). Triethylamine (1 ml) and acetic anhydride (0.5 ml) were then added to the solution, and the mixture was stirred at room temperature overnight. Water and ethyl acetate were added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and was dried over sodium sulfate. The solvent was removed by evaporation under the reduced pressure, and the residue was purified by thin-layer chromatography on silica gel using chloroform/acetone for development to give the title compound (35 mg, yield 63%).

reactant | (4-Tert-butylphenyl)-[4-(6,7-dimethoxy-4-quinolyloxy)phenyl]-methanol | 51 mg | C(C)(C)(C)C1=CC=C(C=C1)C(O)C1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C28H29NO4
reactant | Triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Tert-butylphenyl)-[4-(6,7-dimethoxyquinolin-4-yloxy)phenyl]methyl acetate | 35 mg, yield 63% | C(C)(=O)OC(C1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)C1=CC=C(C=C1)C(C)(C)C | C30H31NO5
